US04032322
A stirred mixture of 141 g of 3-amino-2-cyano-3-propoxypropenenitrile and 94.4 g of triethylamine in 250 ml of pyridine was heated at 80° for 4 hours while hydrogen sulfide gas was continually passed through the mixture. Thin-layer chromatography indicated reaction to be complete. The reaction mixture was diluted to 2 liters with water and the pale yellow precipitate was collected by filtration. The precipitate was recrystallized from ethanol to give 114 g of 3-amino- 2-cyano-3-propoxypropenethioamide, mp 174°.

reactant | 3-amino-2-cyano-3-propoxypropenenitrile | 141 g | NC(=C(C#N)C#N)OCCC | C7H9N3O
reactant | triethylamine | 94.4 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-amino- 2-cyano-3-propoxypropenethioamide | 114 g | NC(=C(C(N)=S)C#N)OCCC | C7H11N3OS
